US08022223B2
Step A: 3-amino-4-methylthiophene-2-carboxylic acid:
Methyl 3-amino-4-methylthiophene-2-carboxylate (4.67 g, 27.3 mmol) and NaOH (2N in H2O, 68 mL, 136 mmol) were stirred at 100° C. for 1 hour. The solution was cooled to 0° C. and acidified to pH=5 with addition of concentrated HCl solution to form a precipitant. The solution was filtered and the solid was dried under vacuum to give the title compound (2.8 g, 65%).

reactant | Methyl 3-amino-4-methylthiophene-2-carboxylate | 27.3 mmol, 4.67 g | NC1=C(SC=C1C)C(=O)OC | C7H9NO2S
reactant | NaOH | 136 mmol, 2N, 68 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
product | 3-amino-4-methylthiophene-2-carboxylic acid | 2.8 g, 65% | NC1=C(SC=C1C)C(=O)O | C6H7NO2S
